US07790756B2
Using a procedure analogous to Example B3, 6-(2-(diphenylmethylene)hydrazinyl)quinoline (4.0 g, 12.3 mmol) and 3-cyclobutyl-3-oxo-propionitrile (1.7 g, 1.1 eq) were combined to provide 5-cyclobutyl-2-quinolin-6-yl-2H-pyrazol-3-ylamine (1.3 g, 40% yield). 1H NMR (300 MHz, CDCl3) δ 8.92 (dd, J=4.5, 1.2 Hz, 1H), 8.16-8.20 (m, 2H), 8.00-8.04 (m, 2H), 7.43 (dd, J=8.4, 1.2 Hz, 1H), 5.64 (s, 1H), 3.83 (br s, 2H), 3.53 (m, 1H), 2.40-2.20 (m, 4H), 2.08-1.92 (m, 2H); MS (ESI) m/z: 265.1 (M+H+).

reactant | 6-(2-(diphenylmethylene)hydrazinyl)quinoline | 12.3 mmol, 4.0 g | C1(=CC=CC=C1)C(=NNC=1C=C2C=CC=NC2=CC1)C1=CC=CC=C1 | C22H17N3
reactant | 3-cyclobutyl-3-oxo-propionitrile | 1.7 g, 1.1 eq | C1(CCC1)C(CC#N)=O | C7H9NO
product | 5-cyclobutyl-2-quinolin-6-yl-2H-pyrazol-3-ylamine | 1.3 g, 40% yield | C1(CCC1)C=1C=C(N(N1)C=1C=C2C=CC=NC2=CC1)N | C16H16N4
